US05712267
1(i) (2S,4S)-4-(4-Methoxybenzylthio)-2-(4-t-butoxycarbonylpiperazin-1-ylcarbonyl)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine
1.78 g of N,N'-carbonyldiimidazole was added to a solution of 4.46 g of (2S,4S)-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)-2-pyrrolidinecarboxylic acid in 45 ml of dry acetonitrile, and the resulting mixture was stirred at room temperature for 1 hour. The reaction mixture was then cooled with ice, and a solution of 2.05 g of 1-t-butoxycarbonylpiperazine in 45 ml of dry acetonitrile was added to the mixture, which was then allowed to stand overnight at room temperature. At the end of this time, the reaction mixture was concentrated by evaporation under reduced pressure, and the concentrate was diluted with ethyl acetate. The ethyl acetate solution was washed with water and with an aqueous solution of sodium chloride and was then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, and the resulting residue was purified by column chromatography through silica gel, using a 3:2 by volume mixture of ethyl acetate and cyclohexane as the eluent, to give 5.4 g of the title compound, as a powder.

reactant | (2S,4S)-4-(4-methoxybenzylthio)-1-(4-nitrobenzyloxycarbonyl)-2-pyrrolidinecarboxylic acid | 4.46 g | COC1=CC=C(CS[C@H]2C[C@H](N(C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(=O)O)C=C1 | C21H22N2O7S
reactant | 1-t-butoxycarbonylpiperazine | 2.05 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | acetonitrile | 45 ml | C(C)#N | C2H3N
solvent | acetonitrile | 45 ml | C(C)#N | C2H3N
product | (2S,4S)-4-(4-Methoxybenzylthio)-2-(4-t-butoxycarbonylpiperazin-1-ylcarbonyl)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 5.4 g | COC1=CC=C(CS[C@H]2C[C@H](N(C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(=O)N2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C30H38N4O8S
